** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-165/sim/vco-supply-pushing/testbench/tb_vco_pushing.sch
**.subckt tb_vco_pushing
XXXVCO VDD GND VCTRL CLK vco_ring5
V1 VDD GND 1.8
V2 VCTRL GND 0.9
**** begin user architecture code

** sky130 PDK model include (tt corner) -- patched per-point by sim/harness
.lib /home/ubuntu/.volare/sky130A/libs.tech/combined/sky130.lib.spice fs

**** end user architecture code
**.ends

* expanding   symbol:  design/vco/vco_ring5.sym # of pins=4
** sym_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-165/design/vco/vco_ring5.sym
** sch_path: /home/ubuntu/GitHub/sky130-pll/.loom/worktrees/issue-165/design/vco/vco_ring5.sch
.subckt vco_ring5 VDD GND VCTRL CLK
*.iopin VDD
*.iopin GND
*.ipin VCTRL
*.opin CLK
XMSP0 SP0 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP0 RING0 RING4 SP0 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN0 RING0 RING4 SN0 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN0 SN0 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMSP1 SP1 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP1 RING1 RING0 SP1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN1 RING1 RING0 SN1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN1 SN1 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMSP2 SP2 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP2 RING2 RING1 SP2 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN2 RING2 RING1 SN2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN2 SN2 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMSP3 SP3 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP3 RING3 RING2 SP3 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN3 RING3 RING2 SN3 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN3 SN3 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMSP4 SP4 VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMP4 RING4 RING3 SP4 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0
+ sd=0 mult=1 m=1
XMN4 RING4 RING3 SN4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMSN4 SN4 VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMBP0 VBP VBP VDD VDD sky130_fd_pr__pfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1 m=1
XMBN0 VBP VCTRL GND GND sky130_fd_pr__nfet_01v8 L=0.5 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1 m=1
XMBUFA_P BUF1 RING0 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0
+ sb=0 sd=0 mult=1 m=1
XMBUFA_N BUF1 RING0 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0
+ sd=0 mult=1 m=1
XMBUFB_P CLK BUF1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=16 nf=1 ad=4.64 as=4.64 pd=32.58 ps=32.58 nrd=0.018125 nrs=0.018125
+ sa=0 sb=0 sd=0 mult=1 m=1
XMBUFB_N CLK BUF1 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=8 nf=1 ad=2.32 as=2.32 pd=16.58 ps=16.58 nrd=0.03625 nrs=0.03625 sa=0
+ sb=0 sd=0 mult=1 m=1
.ends

.GLOBAL GND
.temp 125
.ic v(xxxvco.ring0)=0
.control
set filetype=ascii
save v(clk)
alter V2 0.8
tran 50p 120n uic
linearize v(clk)
wrdata fs_125c_1.80v-point000.raw v(clk)
destroy all
alter V2 0.9
tran 50p 120n uic
linearize v(clk)
wrdata fs_125c_1.80v-point001.raw v(clk)
destroy all
alter V2 1.2
tran 50p 120n uic
linearize v(clk)
wrdata fs_125c_1.80v-point002.raw v(clk)
destroy all
alter V2 1.5
tran 50p 120n uic
linearize v(clk)
wrdata fs_125c_1.80v-point003.raw v(clk)
destroy all
echo "sim/harness: analysis complete"
.endc
.end
